US05476860
(a) Benzyl 2-acetoxy-4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoylmethoxy)benzoate
By reaction of 2.36 g (5 mmol) of benzyl 2-hydroxy-4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoylmethoxy)benzoate and 360 μl (5 mmol) of acetyl chloride in a manner analogous to Example 4(b), 2 g (80%) of the expected product which melts at 137°-138° C. are collected.

reactant | benzyl 2-hydroxy-4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoylmethoxy)benzoate | 5 mmol, 2.36 g | OC1=C(C(=O)OCC2=CC=CC=C2)C=CC(=C1)OCC(=O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C30H32O5
reactant | acetyl chloride | 5 mmol, 360 μl | C(C)(=O)Cl | C2H3ClO
product | Benzyl 2-acetoxy-4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoylmethoxy)benzoate | 2 g, 80% | C(C)(=O)OC1=C(C(=O)OCC2=CC=CC=C2)C=CC(=C1)OCC(=O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C32H34O6
